US07425568B2
2-(4-Nitrophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 2-(4-nitrophenyl)chroman-4,6-diol. 1H NMR (400 MHz, d6-DMSO) δ: 8.84 (s, 1H), 8.26 (d, 2H, J 6.9 Hz), 7.71 (d, 2H, J 6.9 Hz), 6.69 (d, 1H, J 8.6 Hz), 6.53 (dd, 1H, J 8.6, 2.8 Hz), 6.50 (d, 1H, J 2.8 Hz), 5.19 (dd, 1H, J 9.9, 2.2 Hz), 2.87-2.91 (m, 1H), 2.61-2.66 (m, 1H), 2.16-2.21 (m, 1H), 1.89-1.93 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(4-nitrophenyl)chroman-4,6-diol | [N+](=O)([O-])C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13NO5
product | 2-(4-Nitrophenyl)chroman-6-ol | [N+](=O)([O-])C1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)O | C15H13NO4
